US07199147B2
Sodium thiomethoxide (0.0265 g, 0.38 mmol) was added to a solution of 4-bromo-1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazole (0.100 g, 0.26 mmol) in N,N-dimethylformamide (1 ml), and the resulting mixture was heated at 70° C. and stirred for 11 hours. The reaction solution was added to water and extracted three times with toluene/ethyl acetate=1/1, and the extract solution was dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by a silica gel chromatography (hexane/ethyl acetate=10/1) to obtain 4-(methylthio)-1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazole (0.0737 g, 80%).

reactant | Sodium thiomethoxide | 0.38 mmol, 0.0265 g | C[S-].[Na+]
reactant | 4-bromo-1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazole | 0.26 mmol, 0.100 g | BrC1=C2C=NN(C2=CC=C1OC1OCCCC1)C1OCCCC1 | C17H21BrN2O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(methylthio)-1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazole | 0.0737 g, 80% | CSC1=C2C=NN(C2=CC=C1OC1OCCCC1)C1OCCCC1 | C18H24N2O3S
